US07012066B2
Synthesis of 4,4-Dimethyl Proline Methyl Ester (H-Pro(4,4-diMe)-OMe)
To a solution of Boc-Pro(4,4-diMe)-OH (0.5 g, 2.06 mmol) in anhydrous methanol (8 ml) was added dropwise thionylchloride (448 g, 6.18 mmol) and the reaction was stirred for six hours at room temperature. The reaction mixture was concentrated to an amorphous solid (377 mg, 95%).

reactant | Boc-Pro(4,4-diMe)-OH | 2.06 mmol, 0.5 g | N1([C@H](C(=O)O)CC(C1)(C)C)C(=O)OC(C)(C)C | C12H21NO4
reactant | thionylchloride | 6.18 mmol, 448 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 8 ml | CO | CH4O
product | 4,4-Dimethyl Proline Methyl Ester | COC([C@H]1NCC(C1)(C)C)=O | C8H15NO2
